US08975252B2
Potassium carbonate (1.38 g) and a tetrahydrofuran-solution of di-tert-butyl dicarbonate (2 ml) were added to a solution of N-(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)cyclopropanamine (936 mg) in tetrahydrofuran (10 ml)-water (10 ml) and the mixture was stirred at room temperature for 14 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=3/1 to 1/2) to give tert-butyl cyclopropyl(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)carbamate (1.11 g) as a colorless powder.

reactant | Potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 2 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)cyclopropanamine | 936 mg | N1C=C(C=2C1=NC=CC2)CNC2CC2 | C11H13N3
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl cyclopropyl(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)carbamate | 1.11 g | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CNC2=NC=CC=C21 | C16H21N3O2
